US03953604
A mixture of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-chlorophenoxypropane (13.5 g) and diethyl oxalate (15 ml) was added to a suspension of alcohol-free sodium ethoxide (prepared from sodium 3 g) in absolute ether (200 ml). The mixture was heated under reflux for 1.5 hours during which time a yellow solid separated. The reaction mixture was poured onto ice (100 g) and acidified with a solution of acetic acid (12 ml) in water (80 ml). The ether layer was separated and the aqueous layer extracted with ether (3 × 25 ml). The ether layer was combined with the ether extracts and the solvent was evaporated. Acetic acid (80 ml) and hydrochloric acid (30 ml) were added to the residue and the resulting solution was heated under reflux for 1 hour. On pouring into water a beige gum was precipitated which soon solidified and was filtered. Recrystallization from acetic acid gave crude 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-chlorophenoxypropane (12.0 g), as a white solid, m.p. 191°-193°. The impure acid (10 g) was heated under reflux for 5 hours with ethanol (100 ml) and concentrated sulphuric acid (10 drops). The solvent was then removed on a rotary evaporator; the residual oil was dissolved in chloroform and washed successively with sodium bicarbonate solution and water. The solvent was removed and a small volume of ether was added to the residual oil which slowly crystallized to give a white solid (8.4 g), m.p. 98°-100°. Recrystallization from aqueous ethanol gave 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-chlorophenoxypropane (6.6 g) as white fluffy needles, m.p. 98°-100° C.

reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-chlorophenoxypropane | 13.5 g | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)Cl)O)C=CC=C1O | C17H17ClO5
reactant | diethyl oxalate | 15 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-chlorophenoxypropane | 12.0 g | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)Cl)O | C19H15ClO7
